US09056859B2
To a solution of [4-(acetyloxy)-2-chloro-5-methoxyphenyl]acetic acid (670 mg, 2.587 mmol) in 30 mL of MeOH was added dropwise SOCl2 at 0° C. The resulting mixture was stirred at 50˜60° C. overnight and concentrated to dryness. The residue was dissolved in EtOAc (50 mL), washed with water (50 mL), brine (50 mL), dried over anhydrous Na2SO4 and concentrated to give methyl (2-chloro-4-hydroxy-5-methoxyphenyl)acetate. 1H-NMR (400 MHz, CDCl3) δ ppm 6.94 (s, 1H), 6.75 (s, 1H), 3.86 (s, 3H), 3.70 (s, 3H), 3.68 (s, 2H).

reactant | [4-(acetyloxy)-2-chloro-5-methoxyphenyl]acetic acid | 2.587 mmol, 670 mg | C(C)(=O)OC1=CC(=C(C=C1OC)CC(=O)O)Cl | C11H11ClO5
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 30 mL | CO | CH4O
product | methyl (2-chloro-4-hydroxy-5-methoxyphenyl)acetate | ClC1=C(C=C(C(=C1)O)OC)CC(=O)OC | C10H11ClO4
